US05071875
Using a procedure similar to that described in Example 1, 0.24 g of 2-amino-tetralin yielded 0.23 g (81%) of 2-butyramido-tetralin following treatment with butyric anhydride.

reactant | 2-amino-tetralin | 0.24 g | NC1CC2=CC=CC=C2CC1 | C10H13N
reactant | butyric anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
product | 2-butyramido-tetralin | 0.23 g, 81% | C(CCC)(=O)NC1CC2=CC=CC=C2CC1 | C14H19NO
